* extracted by klt extract --deck sg13g2

* cell cp_pfet_w5_l0p5
.SUBCKT cp_pfet_w5_l0p5
* device instance $1 r0 *1 0.67,2.5 pfet
M$1 \$2 \$5 \$1 \$7 pfet L=0.5U W=5U AS=2.1P AD=2.1P PS=10.84U PD=10.84U
* device instance $2 r0 *1 2.41,2.5 pfet
M$2 \$4 \$6 \$3 \$7 pfet L=0.5U W=5U AS=2.1P AD=2.1P PS=10.84U PD=10.84U
.ENDS cp_pfet_w5_l0p5
